US04705853
2,3-Dihydro-2-[2-[[(4-methoxyphenyl)methyl]methylamino]ethyl]-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione
To 40 ml of absolute ethanol was added 5.0 g (0.0194 mole) of 2-(2-chloroethyl-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione, 3.53 g (0.021 mole) of 4-methoxy-N-methylbenzenemethanamine and 2.75 g (0.021 mole) of diisopropylethylamine and the reaction solution heated to reflux for 18 hr. Another 1.0 g (0.006 mole) of 4-methoxy-N-methylbenzenemethanamine was added and heating continued for 4 hr. An additional 1.0 g (0.006 mole) of 4-methoxy-N-methylbenzenemethanamine was added and heating continued overnight. Still an additional 0.6 g (0.0036 mole) of 4-methoxy-N-methylbenzenemethanamine was added and heating continued for 24 hr. The ethanol was removed by rotary evaporation. The residue was taken up in 100 ml of methylene chloride and treated with ~8 ml of acetic anhydride overnight. The methylene chloride was extracted with 3×100 ml of 1N hydrochloric acid. The combined aqueous extracts were washed with 2×100 ml of chloroform, cooled, basified with concentrated sodium hydroxide, and extracted into 3×100 ml of chloroform. The combined organic extracts were dried over sodium sulfate, filtered, concentrated by rotary evaporation, and triturated with isopropyl ether. Because the crystals were still impure, they were dissolved in 100 ml of methylene chloride, washed with 2×50 ml of 4N sodium hydroxide, dried over sodium sulfate, filtered, and concentrated by rotary evaporation. The residue was crystallized from isopropyl alcohol to give 4 g (56%) of yellow analytically pure crystals, m.p. 128°-30° C.

reactant | 2-chloroethyl-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | 4-methoxy-N-methylbenzenemethanamine | 0.021 mole, 3.53 g | COC1=CC=C(C=C1)CNC | C9H13NO
reactant | diisopropylethylamine | 0.021 mole, 2.75 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxy-N-methylbenzenemethanamine | 0.006 mole, 1.0 g | COC1=CC=C(C=C1)CNC | C9H13NO
reactant | 4-methoxy-N-methylbenzenemethanamine | 0.006 mole, 1.0 g | COC1=CC=C(C=C1)CNC | C9H13NO
reactant | 4-methoxy-N-methylbenzenemethanamine | 0.0036 mole, 0.6 g | COC1=CC=C(C=C1)CNC | C9H13NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,3-Dihydro-2-[2-[[(4-methoxyphenyl)methyl]methylamino]ethyl]-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | COC1=CC=C(C=C1)CN(CCC1OC2=C(C(N(C1)C)=S)C=CC=N2)C | C20H25N3O2S
